US05907045
A mix of polyphosphoric acid and 2-(3,5-dimethylphenoxy) acetic acid was heated at 50° C. for 8 hours. The mix was poured in ice, treated with ammonia until a pH 7 was obtained. The mix was extracted with methylenechloride and the organic phase was treated with a solution of bicarbonate, made anhydrous (Na2SO4) and freed from the solvent under reduced pressure, to produce 4,6-dimethyl-3-benzofuranone (40% conversion, 100% yield).

reactant | 2-(3,5-dimethylphenoxy) acetic acid | CC=1C=C(OCC(=O)O)C=C(C1)C | C10H12O3
reactant | ammonia | N | H3N
product | 4,6-dimethyl-3-benzofuranone | 100% yield | CC1=CC(=CC2=C1C(CO2)=O)C | C10H10O2
